Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
painful and swollen upper lip
 
Major Surgical or Invasive Procedure:
I & D of abscess
 
History of Present Illness:
Per the Emergency Department, the patient is a ___ y/o M who 
noted "bumps" inside nose 1 week ago that worsened followed by 
upper lip swelling ___ morning. Subjective fevers and 
chills x5 days. Received abx for sinus infection from OSH 3 days 
ago. No nausea. No eye involvement or visual symptoms. No pain 
with chewing or swallowing. Breathing is normal. No septal 
involvement on exam. Received abx at ___. Has hx MRSA on leg ___ 
years ago. s/p I&D x2 at OSH. Febrile to 102 currently. Per 
report, outside hospital CT showed chronic sinus disease, 
air-fluid level within maxillary sinus and L sphenoid sinus 
suggestive of acute sinusitis, septal deviation to L  
Transferred specifically for ENT evaluation, but no evaluation 
given definitive study already performed and I&D done at OSH. 
___ consider Plastics consult for further I&D if deemed 
necessary.  
In the Emergency Department, the patient had a fever to 102. He 
received IV vancomycin and clindamycin, along with IV morphine 
for pain control. Vital signs on transfer were ___ 134/73 
96%ra ___  
On my interview, the patient confirms the story as delineated 
above. He had "bumps" inside of his nose a couple of weeks ago, 
which he ignored because it is a very busy time at work. Over 
the past week, however, the patient became febrile over several 
nights. He went to the Er on ___ and received what he 
believes was azithromycin, which he took for three days with 
little improvement in his symtpoms. He had increased pain at 
right nare, as well as increasing swelling of his upper lip. His 
PCP discontinued his lisinopril for fear that swelling 
represented angioedema. The patient had increasing pain in his 
upper lip and his gums/maxillary area. At ___ today, 
the patient had I&D of right nose and left cheek.  
REVIEW OF SYSTEMS:  
+ fever  
Denies headache, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, dysuria.  
All other 10-system review negative in detail.  

 
Past Medical History:
Hyperlipidemia  
Hypertension  
MRSA infection of leg ___ years ago  
Tonsillectomy and adenoidectomy  

 
Social History:
___
Family History:
Father and grandmother both died young of heart conditions.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS 99.1 170/93 HR 74 RR 20 100% RA  
GEN: Alert, oriented, no acute distress  
HEENT: NCAT, no tenderness to palpation over areas of maxillary 
or frontal sinsuses, MMM, EOMI, sclera anicteric, OP clear and 
without erythema or exudate, edematous upper lip, wound of right 
nare, erythema of upper lip  
NECK: supple, no LAD  
PULM: Good aeration, CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1/S2, no murmurs auscultated  
ABD: soft, NT, ND, normoactive bowel sounds, no r/g  
EXT: WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO: CNs ___ intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM:
VS 97.8 135/95 76 18 99RA
GEN: Alert, oriented, no acute distress
HEENT: NCAT, no tenderness to palpation over areas of maxillary 
or frontal sinsuses, MMM, OP clear and without erythema or 
exudate. Upper lip with minimal edema/erythema. Nasal septum and 
nares with crusting at opening of right nare, swelling has 
improved greatly since yesterday.
NECK: supple, no LAD
PULM: Good aeration, CTAB, no wheezes, rales, rhonchi
CV: RRR, normal S1/S2, no murmurs auscultated
ABD: soft, NT, ND, normoactive bowel sounds, no r/g
EXT: WWP 2+ pulses palpable bilaterally, no c/c/e
NEURO: CNs ___ intact, motor function grossly normal 

 
Pertinent Results:
ADMISSION LABS: 
___ 08:15AM BLOOD WBC-9.7 RBC-4.51* Hgb-14.4 Hct-42.3 
MCV-94 MCH-31.8 MCHC-33.9 RDW-12.2 Plt ___
___ 08:15AM BLOOD Glucose-113* UreaN-9 Creat-0.7 Na-140 
K-3.8 Cl-103 HCO3-28 AnGap-13

DISCHARGE LABS:
___ 08:15AM BLOOD WBC-6.1 RBC-4.59* Hgb-14.5 Hct-42.9 
MCV-93 MCH-31.5 MCHC-33.8 RDW-12.2 Plt ___

MICRO: ___ record of wound culture showed MMSA -Staph 
aureus with sensitivities (resistant only to penicillin and 
erythromycin, sensitive to oxacillin, TMPSMX, cefazolin, 
levoflox, clindamycin, tetracycline, vancomycin, linezolid.) 
Blood cultures negative x24hrs. 

IMAGING: CT at ___: Evidence of maxillary, ethmoidal sinus 
disease. Air-fluid levels present within maxillary and L 
sphenoid sinus suggest acute sinusitis. 

 
Brief Hospital Course:
___ year-old man with prior episode of MRSA cellulitis who 
presented with fevers, wound in area of right nostril, and 
erythema/swelling of central face/upper lip concerning for 
cellulitis.

#Cellulitis: He presented with elevated WBC, fevers and facial 
(nares/upper lip) consistent with cellulitis.  Microbiology data 
from an outside hospital showed staph aureus (MSSA). He was 
initially started on IV vancomycin and clindamycin and narrowed 
to a po clindamycin regimen (total of 14D regimen).  He was seen 
by ENT for drainage of an abscess near the nasal septum, which 
resolved nicely.  Because of his history of angioedema and 
initial presentation of upper lip involement, the decision was 
made to convert his anti-hypertensive medication to Amlodipine 
5mg.  He will f/u with his PCP.

#SINUSITIS: CT scan from outside hospital suggestive of both 
acute and chronic sinusitis. He was started on fluticasone & 
nasal steroids.  

Chronic issues:
HYPERLIPIDEMIA: stable continued Crestor 10mg daily
HYPERTENSION: SBPs to 170s off of his home lisinopril.  He was 
started on Amlodipine 5mg daily so as not avoid ? angioedema on 
re-challenge of lisinopril.

Transitional Issues:
-PCP to follow up blood pressures 
- Dr. ___ (neurosurgeon) within the next 5 days to 
follow facial cellulitis improvement, as per his request.  This 
was approved by ___ Ent.  If he is unablt to see Dr. ___ 
was instructed to call ___ for an urgent appointment with ENT. 
  
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Rosuvastatin Calcium 10 mg PO DAILY Start: In am 
2. Lisinopril 5 mg PO DAILY Start: In am 
Hold for SBP < 100. 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
HOLD FOR SPB <100 and HR <60 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Mupirocin Nasal Ointment 2% 1 Appl NU BID Duration: 5 Days 
RX *mupirocin calcium [Bactroban Nasal] 2 % Small amount apply 
to both nasal cavities twice a day Disp #*1 Tube Refills:*0
3. Sodium Chloride Nasal ___ SPRY NU TID:PRN nasal congestion 
RX *sodium chloride 0.65 % ___ sprays by nose three times each 
day Disp #*1 Inhaler Refills:*2
4. Rosuvastatin Calcium 10 mg PO DAILY 
5. Acetaminophen w/Codeine ___ TAB PO Q4H:PRN pain 
RX *acetaminophen-codeine 300 mg-30 mg 1 tablet(s) by mouth 
every 4 hours as needed for pain Disp #*30 Tablet Refills:*0
6. Clindamycin 450 mg PO Q6H Duration: 14 Days 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth four times each 
day Disp #*168 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Facial Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure taking care of you while you were admitted to 
___.  You were admitted with cellulitis of the face and upper 
lip which required both IV antibiotics and a drainage procedure. 
 This infection was not caused by MRSA (as you had in the past). 
 You responded well to this treatment.  When you go home you 
should apply warm compresses to your nose/lip each day.  You 
will continue taking antibiotics.  You will take Clindamycin 
150mg, three tablets, four times a day (total of 12 tablets 
daily) for 14 days.  You should take this complete course of 
antibiotics even if your swelling/redness completely resolves.  
You were also given an antibiotic ointment (Mupirocin) to put in 
both nostril cavities twice a day for two weeks.  It is 
important that you have your nose checked by a doctor early next 
week.  If you cannot be seen by Dr. ___ 
(neurosurgeon), as you request, please call your primary doctor 
to schedule an urgent follow up. You can continue to shave as 
you did before, with careful attention paid to the 
upperlip/nasal area and a clean razor each time. 

Lastly, your blood pressure medicine has been changed.  When you 
return home, please do not take Lisinopril.  You will start 
taking Amlodipine 5mg tablet daily for your blood pressure 
control.  

You should seek urgent medical attention if you become febrile, 
notice worsening swelling of the nose/lip face, or any other 
concerning changes on the face.  
 
Followup Instructions:
___